US06683184B2
1-[(2-Methoxyquinoxalin-3-yl)aminocarbonyl]-4-(2-methylt-hiophenyl)piperazine
Phenyl N-(2-methoxyquinoxalin-3-yl)carbamate and 1-(2-methylthiophenyl)piperazine were reacted by the same way with the example 36 to obtain the titled compound.

reactant | Phenyl N-(2-methoxyquinoxalin-3-yl)carbamate | COC1=NC2=CC=CC=C2N=C1NC(OC1=CC=CC=C1)=O | C16H13N3O3
reactant | 1-(2-methylthiophenyl)piperazine | CSC1=C(C=CC=C1)N1CCNCC1 | C11H16N2S
product | 1-[(2-Methoxyquinoxalin-3-yl)aminocarbonyl]-4-(2-methylt-hiophenyl)piperazine | yield: 69.8% | COC1=NC2=CC=CC=C2N=C1NC(=O)N1CCN(CC1)C1=C(C=CC=C1)SC | C21H23N5O2S
